Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Sacral ulcer
 
Major Surgical or Invasive Procedure:
Uretropelvic junction stent replacement
Intubation
PICC line placement
Right Chest tube placement
 
History of Present Illness:
Ms. ___ is a ___ year-old woman a PMH significant for AFib on 
coumadin, UPJ obstruction s/p stent placement in ___ c/b 
chronic Klebsiella bacturia, IgG myeloma on lenolidamide, and 
adenocarcinoma of the anal canal (followed by Dr. ___ 
admitted to ___ for evaluation of anemia (Hgb 8.6) 
with course complicated by atrial fibrillation with RVR 
requiring ICU admission for dilt gtt, Acute of chronic kidney 
injury osteomyelitis from sacral decubitus ucler who was 
transferred to ___ for debridement of sacral ulcer.  
  In the ED she developed afib with RVR with hypotension where 
she briefly required a dilt gtt. She was then transferred to the 
floor. 
  Hospital course thus far has included an MRI without 
osteomyelitis, abdominal distension w/ NGT placement draining 
bilious contents, CBI and urology procedure for evaluation of 
hematuria. She underwent cystoscopy ___ to exchange ureteral 
stent and found purulence behind stent. There was no etiology of 
hematuria seen. She was started on vanc and zosyn and kept on 
fluconazole started pre-procedure.  Culture significant for 
___ albicans and MDR pseudomonas SN to Gentamicin which was 
held ___ ___.
 Following cystoscopy, were unable to extubate and couldn't get 
off pressors. Per report, black colored liquid was coming out of 
NGT.  
 
Required FICU transfer
FICU Course Significant for: Extubation and starting on tube 
feeding.
Was restabilized and discharged from the FICU where CT Torso 
revealed
New retroperitoneal soft tissue mass encasing the aorta and 
common iliac vessels in comparison to the ___ 
examination. The mass abuts the second and third portion of the 
duodenum and pancreatic head.  Suspected involvement of the 
pancreatic head and distal CBD with new intra and extrahepatic 
bile duct dilation.  
Encasement of both ureters, with new left and worsened right 
moderate hydronephrosis in comparison to the ___  
  Transferred to ___ where course was complicated by hypotension 
and worsening of anemia in the setting of gross hematuria. Her 
VS were 85/Doppler and HR of high ___. She received one unit 
prbc at the time of initial assessment and 2nd unit being hung.

Prior to transfer: hung 2nd unit prbc (first at about 3). 
-Obtained ABG.
-Guiac positive

On arrival to the CCU, pt in respiratory distress with shallow 
breathing.  Intermittently responsive, able to follow some 
commands.  Felt "ok" but increasingly somnolent.
 
Past Medical History:
PAST ONCOLOGIC HISTORY:

#ANAL ADENOCA: Per Dr. ___: Admitted to ___ ___ for
BRBPR. Found to have anal adenocarcinoma, T2N0 based on MRI and
CT. Seen by Dr ___ in the hospital from surgery but has
been noncompliant with f/u with her despite multiple outreaches
from her office.

#MM: ___ woman who presented with anemia in ___.  Further testing demonstrated an M-spike of
approximately 3.3 g/dL, IgG was 5800 mg/dL.  Eventually, the
patient was referred to Hematology, IgG increased to 7100mg/dL 
at
the start of treatment.  Initial Hematology consult was ___.  Bone marrow biopsy revealed 60% of her bone marrow
occupied by plasma cells, cytogenetics demonstrated 
translocation
of chromosomes 11 and 14, also monosomy 13.  Skeletal survey was
negative.  Initial beta 2 microglobulin was 4.08, she started
cycle 1 of Revlimid and dexamethasone on ___, 
Revlimid
at 25 mg.  She was admitted to ___ on ___,
with pneumonia, she was also coagulopathic and quite leukopenic. 

She was discharged on ___.  On
___, she presented with severe back pain, and she has
sustained a compression fracture of L3 vertebra.  Her white 
blood
cell count was still low, the Revlimid was held, and restarted 
on
___ at a lower dose of 15 mg, in combination with
weekly dexamethasone at 20 mg.  She was started on Zometa.  The
patient did well on this lower dose of Revlimid with a nice
improvement in her IgG and M-spike, M-spike going down to 1.0
g/dL by ___, and her IgG going into the normal range 
at
the same time, she continued on Revlimid 15 mg every days ___,
with weekly dexamethasone at 20 mg, repeated every month, with
Zometa every 3 months, for quite some time, although by ___, the patient was becoming more leukopenic.  At the start of
cycle 19 of Revlimid and dexamethasone, in ___, the
M-spike was down to 0.6 g/dL, and the Revlimid was reduced to 10
mg per day because of severe neutropenia.  Unfortunately by
___ timeframe, the M-spike started to creep up, to 0.8
g/dL fairly consistently through the ___, and by 
___, at her ___ cycle of Revlimid and dexamethasone, the
M-spike increased to 0.9 g/dL. She was increased to Rev 15 mg 
and
her counts are holding. She reports she missed a month of Rev 
due
to her hospitalization in ___                      Cycle #27 Rev 15mg -Dex
___    Clinic appt start Biaxin
___                      Cycle #28 Rev-Dex
___    Clinic appt reviewed labs M-spike 0.8g/dL
___                      Cycle #29 Rev-Dex
___                      Admitted for hematuria, elevated INR
attributed to Ultram-warfarin interaction
___    Clinic appt Zometa, on cycle #29
___    Cycle #30 Rev-Dex
___    Cycle #31-- decided to continue without a clinic 
appt,
she was having a great time visiting family in ___
___  Cycle #31 day #19
___  Cycle #32
___  Cycle #33 and Zometa
___  Cycle #34 start on ___ end ___. 
___    Cycle #35 start ___ end ___.  M-spike 0.9g/dL
___    Cycle #36, start ___ or ___, Zometa, end ___. 
M-spike 0.8g/dL
___    Cycle ___ M-spike 0.9g/dL.  Now ___ years on 
Rev-dex
(first cycle was ___    Cycle ___ M-spike 0.9g/dL IgG stable.  Start Rev ___
___ finish ___                      See me in clinic before cycle #39
start ___ finish ___                      See me in clinic, Zometa, cycle #40
will start ___ ( I am out of office ___
___    Admitted ___ obstructive uropathy and
enterococcal UTI discharged ___ to rehab
___                      ___ 
discharged
___    Touched base by phone, hold Revlimid until next 
follow
up
___                      Cycle #41 start ___ end ___    Stent change scheduled
___                      Cycle #42 planned start
___    Zometa, Previously followed in hem/onc by Dr 
___ today to establish care with me.
___    Cycle 44
___    Cycle 45, zometa
___      Cycle 46
___      Cycle 47, zometa
___         Cycle 48 Rev
___      Cycle 49 rev, zometa
___      Cycle 50 rev
___    Cycle 51 rev
___    Anal cancer - adeno diagnosed

PAST MEDICAL HISTORY:
Hypertension  
Atrial fibrillation on coumadin  
Obesity  
Myeloma    
Osteoarthritis of right knee  
UPJ obstruction s/p stent placement ___ c/b persistent 
Klebsiella bacteruria  
Anal adenocarcinoma (dx ___ 
? Perirectal cyst drainage in 1980s 

PSH: 
___ - EUA, biopsy of ___ lesion
___ - cystoscopy and R ureteral stent exchange
___ - lap CCY
Hysterectomy
___ - unknown ___ procedure

 
Social History:
___
Family History:
Her parents died in their ___ or ___ of "old age."  Her parents 
and multiple siblings have hypertension. Sibling with 
Alzheimer's disease. No family history of significant arrhythmia 
or premature coronary disease.

 
Physical Exam:
Admission Physical Exam:
 Vitals: 97.8 120/77 118 20 100RA  
 GENERAL: Elderly woman, lying in bed, NAD  
 HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM  
 NECK: nontender supple neck, no LAD, no JVD  
 CARDIAC: Irregularly irregular, +S1/S2, no murmurs, gallops, or 
rubs  
 LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
 ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly. Anus with friable 
mucosa. Ostomy in place  
 EXTREMITIES: 2 piting edema up through shins bilaterally, no 
cyanosis or clubbing  
 PULSES: 2+ DP pulses bilaterally  
 NEURO: CN II-XII and motor grossly intact intact  
 SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

Discharge Physical Exam:
deceased
 
Pertinent Results:
Admission Labs:
---------------
___ 04:38AM BLOOD WBC-4.3 RBC-2.88* Hgb-8.6* Hct-25.9* 
MCV-90 MCH-29.9 MCHC-33.2 RDW-15.9* RDWSD-52.1* Plt ___
___ 04:38AM BLOOD Neuts-53 Bands-0 Lymphs-14* Monos-25* 
Eos-3 Baso-0 ___ Metas-2* Myelos-3* AbsNeut-2.28 
AbsLymp-0.60* AbsMono-1.08* AbsEos-0.13 AbsBaso-0.00*
___ 04:38AM BLOOD Hypochr-2+ Anisocy-NORMAL Poiklo-NORMAL 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 04:38AM BLOOD ___ PTT-27.0 ___
___ 04:38AM BLOOD Glucose-101* UreaN-35* Creat-2.0*# Na-134 
K-4.9 Cl-98 HCO3-27 AnGap-14
___ 04:38AM BLOOD ALT-6 AST-18 LD(LDH)-182 AlkPhos-75 
TotBili-0.4
___ 04:38AM BLOOD Albumin-2.4* Calcium-8.1* Phos-3.6 Mg-2.1
___ 04:38AM BLOOD Vanco-14.6

IMAGES:  
-------
___ CXR
Port-A-Cath catheter tip is at the level of the right 
ventricular outflow tract.  The double tube has been removed.  
There is substantial distension of the stomach that might 
potentially benefit from the NG tube insertion.  What appears to 
be a E ureteral stent is partially imaged. Bilateral pleural 
effusions, right more than left are present. Vascular congestion 
is noted, borderline with mild interstitial pulmonary edema. 

___ KUB
1. A right double J stent projects over the expected location of 
the right renal pelvis and bladder.  The stent is unchanged in 
position since ___. 
2. The stomach is distended with air. 

___ TTE
The left atrium is moderately dilated. Left ventricular wall 
thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). The estimated 
cardiac index is normal (>=2.5L/min/m2). Tissue Doppler imaging 
suggests a normal left ventricular filling pressure 
(PCWP<12mmHg). The right ventricular cavity is mildly dilated 
with normal free wall contractility. The aortic valve leaflets 
(3) are mildly thickened but aortic stenosis is not present. 
Trace aortic regurgitation is seen. The mitral valve leaflets 
are structurally normal. There is no mitral valve prolapse. Mild 
to moderate (___) mitral regurgitation is seen. There is mild 
to moderate pulmonary artery systolic hypertension. There is no 
pericardial effusion. 

Compared with the prior study (images reviewed) of ___, the 
findings are similar.  

___ Renal US
1.  Moderate hydronephrosis and cortical thinning on the right.  
Mild 
hydronephrosis on the left.  These findings are unchanged from 
CT ___. 
2.  A large pleural effusion is unchanged from ___. 

___ CXR
As compared to the previous radiograph, the right sided J-stent 
is unchanged. The previously severe gastric over distension has 
further increased in severity and is now massive. 

___ CXR
As compared to ___, the patient has received a new 
nasogastric tube.  The tube is located in the middle parts of 
the stomach.  The previous overinflation of the stomach is no 
longer present.  The lung volumes remain low.  Moderate 
cardiomegaly.  Moderate bilateral areas of atelectasis and mild 
to moderate right pleural effusion. 

___ MRI Sacrum
PND - preliminary read is no osteomylelitis

Discharge Labs: N/A
---------------
 
Brief Hospital Course:
Ms. ___ is a ___ year-old woman a PMH significant for AFib on 
coumadin, UPJ obstruction s/p stent placement in ___ c/b 
chronic Klebsiella bacturia, IgG myeloma on lenolidamide, and 
adenocarcinoma of the anal canal (followed by Dr. ___ 
admitted to ___ for evaluation of anemia (Hgb 8.6) with 
course complicated by atrial fibrillation with RVR requiring ICU 
admission for dilt gtt, Acute of chronic kidney injury, 
?osteomyelitis from sacral decubitus ulcer now transferred to 
___ for debridement of sacral ulcer.  Became hypotensive and 
quite anemic on the floor with H/H of ___ and was transferred 
to the MICU ___. 
  She peacefully passed away with her family and family pastor 
present in the room at ___ on ___. 
 
#Hypercarbic respiratory failure: The pt consistently required 
nasal cannula up to 6 L while on the floor. This was thought to 
be due to volume overload and increased work of breathing. While 
in the CCU pt became more lethargic and an ABG showed 
hypercarbic respiratory failure.  She was intubated by 
anesthesia.  CXR showed large bilateral pleural effusions and 
she was grossly anasarcic.  IP placed a right chest tube to 
drain the effusion which showed that it was malignant with 
cytology showing adenocarcinoma.  She was extubated successfully 
on ___ and was weaned down to room air thereafter.  She was 
able to be comfortable on room air for the rest of her 
admission.

# Encephalopathy: although the pt's mental status had noticed to 
be declining on the floor, she was still able to answer 
appropriately. After extubation, the pt was noted to be very 
lethargic and minimally responsive. EEG was done which showed 
triphasic waves consistent with an encephalopathy. The pt was 
trialed on Ativan and Keppra. Her mental status remained very 
poor in spite of continued Keppra.  Neuro signed off after head 
imaging was unrevealing.  Mental status continued to wax and 
wane through the rest of her time. 

# Stage IV surgical dehiscence: Patient had correction of 
abdominoperineal resection defect with a right vertical rectus 
abdominis muscular cutaneous flap in ___ following 
resection of anal cancer. She presented to the hospital with 
stage IV, MRSA + sacral ulcer with concern for osteomyelitis, as 
wound probes to bone. CT scan with no mention of sacral 
osteomyelitis. GI deferred to plastics as they did flap surgery. 
Plastics does not recommend surgical intervention at this time. 
MRI shows no signs of osteomyelitis. This wound remained stable 
during her hospital course. 

# ___: Baseline Creatinine 0.8. Creatinine on admission was 2.1 
in setting of diuresis but also possible hypotension from afib 
with RVR. Pt is grossly volume overloaded with hypoalbumenemia. 
Concern for prerenal vs. intrinsic with possible multiple 
myeloma involvement vs obstructive. Creatinine remains above 2.0 
today. Renal consulted and believed that her ___ was 
predominantly secondary to obstruction. After stent exchange by 
urology ___, renal function improved with a Cr to 1.5 with IV 
fluids and remained stable. 
 
# Gastric Distension: Patient developed nausea and 1 episode of 
vomiting ___ with increasing distention. And xray ___ 
showed significant gastric distension. NG tube was placed and 
>1L was drawn off. Patient's reported symptomatic improvement. 
Patient continued to have ostomy output throughout episode. No 
mass appreciated on exam though obese abdomen. Patient not on 
narcotic medication. On ___, NG tube was clamped without 
recurrence of distention, patient denies nausea or distension. 
Unable to get CT abd due to poor kidney function, but got OSH CT 
read by our radiologists. It was notable for new retroperitoneal 
mass encasing aorta throughout abdomen. It is touching and 
possibly invading ___ and ___ portion of duodenum, potentially 
explaining gastric obstruction symptoms. Invades pancreatic 
head, explaining ductal dilatation. Also surrounding common 
iliac vessels, and both ureters (hydronephrosis worse since 
___. Speech and swallow was consulted who said the pt 
should be strict NPO. Tube feeds were started.  

# Tube feeds: On ___ Ms. ___ was no longer tolerating 
her tube feeds due to very high residuals.  Tube feeds were 
stopped and she was given nutrition with D5NS at 75/hr.  ___ 
attempted to place the Dobhoff tube post-pyloric but they were 
unable to pass the tube through the pylorus and noted contrast 
barely trickles through ___ obstruction. In family meetings the 
family was informed that the feeding tube could not be advanced, 
and that other options such as TPN would likely harm the pt more 
than help her because of her risk for bloodstream infection and 
metabolic derangements.  

# Metastatic anal adenocarcinoma: large retroperitoneal mass 
compressing the abdomen and constricting the aorta at the level 
of the iliacs noted on CT from OSH, thought to be metastasis 
from her known anal adenocarcinoma. Per onc, not a candidate for 
chemotherapy, so likely not worth biopsying even though 
definitive diagnosis would not otherwise be reached. Recommend 
getting palliative care involved and having goals of care 
discussion with family.  First family meeting was ___ and 
son, ___, wanted us to do everything we could to help Ms. 
___. This continued to be a theme during her hospital stay, 
and several meetings were held with the family to discuss goals 
of care.  On ___ it was decided to switch to focusing on her 
comfort only.

# Volume overload: Likely from diastolic heart failure but will 
need to rule out hypoalbuminemic state, and cirrhosis. Patient 
with gross volume overload with 2+ ___ edema, bilateral effusions 
and CT with anasarca on abdominal imaging.  TTE unchanged from 
previous with EF 55% and no gross valvular dysfunction. TSH 
elevated, T4 WNLs. Patient given albumin ___ with good 
response.  However, patient still significantly overloaded.  On 
___ she was anuric and hypotensive despite having 
significant lower extremity and abdominal edema.  She was 
transferred to the MICU on this day.  While in the MICU she was 
stabilized and pressors were downtitrated.  Poor response to 
Lasix alone but given Lasix and Chlorothiazide with good UOP.  
 
# Hematuria: Unclear cause but patient was on anticoagulation. 
Concern would be primarily for tumor infiltration. Hematuria 
intermittent, but seems to recur during transport. Potential 
mechanical irritation. Patient continues to pass dime sized 
clots. Stent exchange done ___ by urology, with improvement in 
her hematuria.  Hematuria with clots returned on ___.  
Urology recommended CBI which was started ___.  She had 
CBI intermittently throughout her stay to relieve foley 
obstructions. 
 
# Normocytic Anemia: Hgb at ___ 8.6. No evidence of 
bleeding. She does have stage III CKD. MCV within normal range 
and iron studies not particularly suggestive of iron deficiency 
anemia with ferritin of 781. Folate level of 7.4 and B12 of 411. 
Concern could possibly be for chronic low grade bleed from gut 
or hematuria. (transfused evening of ___.  Hgb remained 
stable in the 7's until ___ when H/H dropped to ___.  
This same day she triggered for hypotension of 86/Doppler.  As 
she was anuric at this  time there was concern of intraabdominal 
bleeding and was one of the indications for MICU transfer.  Pt 
had episode of gross hematuria requiring CBI and pRBC 
transfusion for BP control.  Pt required Vasopressin and 
Phenylephrine while in the MICU but was able to be weaned off.  
She required intermittent pRBC transfusions during her time in 
the MICU.
 
# AFib on coumadin: CHADS 2 of 3. Hemodynamically unstable with 
RVR upon arrival, but controlled with diltiazem and metoprolol.  
She remained in AFib during her hospital stay.  Due to her 
hematuria and dropping H/H, blood pressure medications and 
ultimately SQH were discontinued on ___.   Pt put on an 
esmolol gtt as she had afib with RVR into the 130s on her first 
day in the ICU. She was taken off the esmolol drip and 
thereafter controlled with IV metoprolol and achieved good 
control on PO metoprolol with heart rates in the ___. 

# Hypertension: Currently normotensive.  See above for issues 
with hypotension and reason for MICU transfer ___. 
 
# IgG Myeloma: Patient with longstanding IgG MM, followed by 
___ Oncology. Currently not on revlimid or dexamethasone. 
Kappa:lamba increase, but can be seen in kidney disease.  Atrius 
oncology followed patient throughout hospital stay.

====================
TRANSITIONAL ISSUES:
====================
- Family Bereavement Counseling 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen (Liquid) 1000 mg PO TID 
2. Diltiazem 30 mg PO QID 
3. Heparin Flush (10 units/ml) 5 mL IV DAILY and PRN, line flush 

4. Artificial Tears ___ DROP BOTH EYES PRN Dry eyes 
5. Heparin Flush (100 units/ml) 5 mL IV PRN DE-ACCESSING port 
6. TraMADOL (Ultram) 25 mg PO Q6H:PRN pain 
7. Dexamethasone 4 mg PO 1X/WEEK (TH) 
8. Calcium Carbonate 500 mg PO BID:PRN heart burn 
9. Collagenase Ointment 1 Appl TP DAILY 
10. Escitalopram Oxalate 5 mg PO DAILY 
11. Metoprolol Succinate XL 200 mg PO DAILY 
12. Mirtazapine 7.5 mg PO QHS 
13. Pantoprazole 40 mg PO Q24H 
14. Furosemide 80 mg PO DAILY 

 
Discharge Medications:
N/A
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Patient Expired 
 
Discharge Condition:
Patient Expired

 
Discharge Instructions:
Patient Expired
 
Followup Instructions:
___